US07576122B2
Step E: N,N-Dibutyl-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzothien-3-yl]acetamide
A solution of 21.6 mg of 1-tert-butyl-6-methoxy-3H-[1]benzothieno[2,3-c]pyran-3-one from the Step D above and 29.1 mg di-n-butyl amine in 0.75 mL anhydrous DMF was heated at 70° C. for six hours. The reaction mixture was purified on RP-HPLC using 70˜100% MeCN gradient with 0.1% TFA. The product fractions were pooled and lyophilized to give the title compound as a white solid. LC-MS: 4.53 min. (m/Z=418.3, 440.2).

reactant | 1-tert-butyl-6-methoxy-3H-[1]benzothieno[2,3-c]pyran-3-one | 21.6 mg | C(C)(C)(C)C=1OC(C=C2C1SC1=C2C=C(C=C1)OC)=O | C16H16O3S
reactant | di-n-butyl amine | 29.1 mg | C(CCC)NCCCC | C8H19N
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
product | N,N-Dibutyl-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzothien-3-yl]acetamide | C(CCC)N(C(CC1=C(SC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)=O)CCCC | C24H35NO3S
